US08859553B2
Step 3. N-Cyclobutyl-6-ethynylpyridazin-3-amine
Into a solution of N-cyclobutyl-6-(2-(trimethylsilyl)ethynyl)pyridazin-3-amine (0.49 g, 2 mmol) in CH2Cl2, TBAF was added. The reaction was monitored by TLC. The reaction mixture was concentrated and the residue obtained was purified by silica gel chromatography (eluent: 30% ethyl acetate in n-hexane, ethyl acetate was added 0.5% Et3N) to give an off-white solid (0.26 g, 75.1%). 1H NMR (300 MHz, CDCl3) δ: 7.26-7.29 (1H, d, J=9.0 Hz), 6.51-6.54 (1H, d, J=9.0 Hz), 5.57 (1H, s), 4.17-4.24 (1H, m), 3.21 (1H, s), 2.40-2.46 (2H, m), 1.89-1.98 (2H, m), 1.77-1.85 (2H, m).

reactant | N-cyclobutyl-6-(2-(trimethylsilyl)ethynyl)pyridazin-3-amine | 2 mmol, 0.49 g | C1(CCC1)NC=1N=NC(=CC1)C#C[Si](C)(C)C | C13H19N3Si
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
product | N-Cyclobutyl-6-ethynylpyridazin-3-amine | 0.26 g, 75.1% | C1(CCC1)NC=1N=NC(=CC1)C#C | C10H11N3
